US07776897B2
Ethyl 1-(1-benzylpiperidin-4-yl)cyclopentanecarboxylate was reacted with potassium hydroxide in ethylene glycol under heating to obtain 1-(1-benzylpiperidin-4-yl)cyclopentanecarboxylic acid.

reactant | Ethyl 1-(1-benzylpiperidin-4-yl)cyclopentanecarboxylate | C(C1=CC=CC=C1)N1CCC(CC1)C1(CCCC1)C(=O)OCC | C20H29NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-(1-benzylpiperidin-4-yl)cyclopentanecarboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)C1(CCCC1)C(=O)O | C18H25NO2
